US06599917B1
b) 2-Benzyl-3-bromo-6-(3-methoxypropyl)thiopyridine
A mixture of 500 mg of 2-benzyl-3-bromo-6-mercaptopyridine, 360 mg of 3-methoxypropylmethane sulfonate, 370 mg of anhydrous potassium carbonate and 10 ml of N,N-dimethylformamide was stirred at room temperature for one hour in a nitrogen atmosphere. The reaction solution was partitioned between ethyl acetate-water, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography using 1-2% ethyl acetate/hexane, to give 425 mg of the target compound.

reactant | 2-benzyl-3-bromo-6-mercaptopyridine | 500 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)S | C12H10BrNS
reactant | 3-methoxypropylmethane sulfonate | 360 mg | COCCCCS(=O)(=O)[O-]
reactant | potassium carbonate | 370 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Benzyl-3-bromo-6-(3-methoxypropyl)thiopyridine | 425 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1Br)SCCCOC | C16H18BrNOS
